US07037993B2
The same polymerization as in Example 7 was carried out, except for using a mixture of 15 parts of tetracyclo[4.4.0.12,5.17,10]dodec-3-ene (TCD) and 18.4 parts of 5-carboxy-5-carboxymethyl-2-norbornene (CCMN) obtained in Preparation Example 4 as monomers (monomer composition: TCD/CCMN=50/50 (mol/mol)), and using 1-hexene in an amount of 0.16 part. The polymerization conversion rate was 98%, the monomer composition ratio (TCD/CCMN) in the resulting ring-opened copolymer was 50/50 (mol/mol), and the weight average molecular weight (Mw) was 34,400.

reactant | tetracyclo[4.4.0.12,5.17,10]dodec-3-ene | C12C3C=CC(C2C2CCC1C2)C3 | C12H16
reactant | 5-carboxy-5-carboxymethyl-2-norbornene | C(=O)(O)C1(C2C=CC(C1)C2)CC(=O)O | C10H12O4
product | TCD CCMN | C12C3C=CC(C2C2CCC1C2)C3.C(=O)(O)C1(C2C=CC(C1)C2)CC(=O)O | InChI=1S/C12H16.C10H12O4/c1-2-8-5-7(1)11-9-3-4-10(6-9)12(8)11;11-8(12)5-10(9(13)14)4-6-1-2-7(10)3-6/h1-2,7-12H,3-6H2;1-2,6-7H,3-5H2,(H,11,12)(H,13,14)
